US04303588
A three-necked flask equipped with a stirrer, a reflux condenser and a thermometer was charged with 132 g of farnesylacetic acid, 140 g of triphenylphosphine and 500 ml of carbon tetrachloride, and the contents were heated under reflux of carbon tetrachloride for 4 hours. The reaction mixture was filtered to remove a formed solid matter, the carbon tetrachloride distilled off, 500 ml of n-hexane added, the mixture ice-cooled and the crystalline precipitate filtered off. The n-hexane was then distilled off, leaving 146 g of crude farnesylacetyl chloride.

reactant | farnesylacetic acid | 132 g | C(C=C(C)CCC=C(C)CCC=C(C)C)CC(=O)O | C17H28O2
reactant | triphenylphosphine | 140 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | farnesylacetyl chloride | 146 g | C(C=C(C)CCC=C(C)CCC=C(C)C)CC(=O)Cl | C17H27ClO
